US08492378B2
[5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazol-2-yl]cyanamide
In the same manner as in Example 110 and using 2-(methylsulfonyl)-5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole instead of 2-(2,3-dihydro-1-benzofuran-5-yl)-5-(methylsulfonyl)-1,3,4-oxadiazole and using cyanamide instead of 3-fluorobenzylalcohol, the title compound (yield 24%) was obtained as colorless crystals.

reactant | 2-(methylsulfonyl)-5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole | CS(=O)(=O)C=1OC(=NN1)C=1C=CC2=C(C(=CO2)C2=CC(=CC=C2)OC(F)(F)F)C1 | C18H11F3N2O5S
reactant | cyanamide | N#CN | CH2N2
product | [5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazol-2-yl]cyanamide | yield 24% | FC(OC=1C=C(C=CC1)C1=COC2=C1C=C(C=C2)C2=NN=C(O2)NC#N)(F)F | C18H9F3N4O3
